US07576099B2
(Z)-2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid
A solution of (Z)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate (35 mg, 0.12 mmol) in CH2Cl2 (5 mL) and TFA (0.5 mL) was stirred at room temperature for 2 h. The solvent was removed under reduced pressure to give a white solid. LC-MS: 2.86 min, 233.2 (M−1).

reactant | (Z)-tert-butyl 2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoate | 0.12 mmol, 35 mg | FC1=C(C(=O)OC(C)(C)C)C=CC(=C1)\C=C/C(F)(F)F | C14H14F4O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (Z)-2-fluoro-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid | FC1=C(C(=O)O)C=CC(=C1)\C=C/C(F)(F)F | C10H6F4O2
